US07511042B2
To a solution of 15.0 g (84.2 mmol) of 5-tert-Butyl-2-hydroxy-benzaldehyde in MeCN at −30° C. was added 14.5 g (109.4 mmol) of nitronium tetrafluoborate. The temperature was allowed to climb slowly to −12° C. ove 1 h. The mixture was partitioned between sat'd NaHCO3 and EtOAc. The organic layer was washed with water and brine then dried over MgSO4. After filtration and evaporation, 5-tert-butyl-2-hydroxy-3-nitro-benzaldehyde was obtained as yellow solid. To a portion of this material (6.27 g, 28.1 mmol) in 40 mL of DMF was added 19.4 g of K2CO3 in two batches. To this slurry was added 6.12 mL (98.3 mmol) of MeI. The mixture was stirred overnight, filtered, and diluted with EtOAc. This mixture was washed with water, and the wash was then extracted with EtOAc (3×150 mL). The extracts were washed with water and brine, then dried over MgSO4, filtered, and concentrated. Chromatography (5% EtOAc in hexanes) provided 5.38 g of 5-tert-butyl-2-methoxy-3-nitro-benzaldehyde as an off-white solid.

reactant | 5-tert-Butyl-2-hydroxy-benzaldehyde | 84.2 mmol, 15.0 g | C(C)(C)(C)C=1C=CC(=C(C=O)C1)O | C11H14O2
reactant | nitronium | 109.4 mmol, 14.5 g | O=[N+]=O
solvent | MeCN | CC#N | C2H3N
product | 5-tert-butyl-2-hydroxy-3-nitro-benzaldehyde | C(C)(C)(C)C=1C=C(C(=C(C=O)C1)O)[N+](=O)[O-] | C11H13NO4
